US07098219B2
5-Amino-1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-{4′-(methylamino)-3′,3′-dimethylpiperidin-1-yl}-4-oxo-quinoline-3-carboxylic acid
The condensation of 5-amino-1-cyclopropyl-6,7-difluoro-8-methoxy-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid with 4-methylamino-3,3-dimethylpiperidine was carried out in a similar manner as described in example 1 (NorA), gave the titled product. Yield 54%, m.p 250° C., C22H29FN4O4, m/z 433 (M+1).

reactant | 5-amino-1-cyclopropyl-6,7-difluoro-8-methoxy-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)OC)C1CC1)C(=O)O)=O | C14H12F2N2O4
reactant | 4-methylamino-3,3-dimethylpiperidine | CNC1C(CNCC1)(C)C | C8H18N2
product | 5-Amino-1-cyclopropyl-6-fluoro-8-methoxy-1,4-dihydro-7-{4′-(methylamino)-3′,3′-dimethylpiperidin-1-yl}-4-oxo-quinoline-3-carboxylic acid | Yield 54% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(C(CC1)NC)(C)C)OC)C1CC1)C(=O)O)=O | C22H29FN4O4
